US07078428B2
b) 3-Hydroxy-5-methanesulfonyl-2-(2,2,2-trifluoro-ethyl)-2,3-dihydro-isoindol-1-one
3.4 g of 5-methanesulfonyl-2-(2,2,2-trifluoro-ethyl)-isoindole-1,3-dione were dissolved using 240 ml of MeOH. 0.63 g of KBH4 were then added in small portions at ambient temperature. The reaction mixture was stirred for 20 h at ambient temperature and subsequently poured into 1 l of water at 0° C. The aqueous layer was then extracted three times using 300 ml of CH2Cl2 each time. Then, the aqueous layer was extracted four times using 300 ml of EA each time. Each organic layer was dried separately over Na2SO4. The solvents were removed in vacuo. The EA layer yielded 1.4 g pure product as a pale yellow oil. The CH2Cl2 layer was chromatographed on silica gel using EA/HEP 1:2 yielding another 1.5 g of product (Rf (EA/HEP 1:2)=0.035; MS (DCI): 310 (M+1)+)

reactant | 5-methanesulfonyl-2-(2,2,2-trifluoro-ethyl)-isoindole-1,3-dione | 3.4 g | CS(=O)(=O)C=1C=C2C(N(C(C2=CC1)=O)CC(F)(F)F)=O | C11H8F3NO4S
reactant | MeOH | 240 ml | CO | CH4O
solvent | water | 1 l | O | H2O
product | 3-Hydroxy-5-methanesulfonyl-2-(2,2,2-trifluoro-ethyl)-2,3-dihydro-isoindol-1-one | 1.4 g | OC1N(C(C2=CC=C(C=C12)S(=O)(=O)C)=O)CC(F)(F)F | C11H10F3NO4S
